US07119122B2
b) 4-Chloro-2-(3-formyl-5-methoxyphenoxy)benzonitrile
4-Chloro-2-(3-formyl-5-hydroxyphenoxy)benzonitrile (0.20 g, 0.75 mmol) in DMF (5 ml) was treated with sodium hydride (60% in mineral oil, 30 mg, 0.78 mmol) followed after 10 min by methyl iodide (0.1 ml). After 16 h, a further amount of sodium hydride (8 mg) and methyl iodide (0.1 ml) were added. After 3 h, the mixture was diluted with water, extracted with ethyl acetate, the extracts washed with water, dried over, sodium sulphate and evaporated to give the sub-title compound as a pale yellow solid (213 mg).

reactant | 4-Chloro-2-(3-formyl-5-hydroxyphenoxy)benzonitrile | 0.75 mmol, 0.20 g | ClC1=CC(=C(C#N)C=C1)OC1=CC(=CC(=C1)O)C=O | C14H8ClNO3
reactant | sodium hydride | 0.78 mmol, 30 mg | [H-].[Na+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | sodium hydride | 8 mg | [H-].[Na+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Chloro-2-(3-formyl-5-methoxyphenoxy)benzonitrile | 213 mg | ClC1=CC(=C(C#N)C=C1)OC1=CC(=CC(=C1)OC)C=O | C15H10ClNO3
